US06962934B2
Preparation of N1-isobutyl-L-alaninamide
N2-(tert-Butoxycarbonyl)-N1-isobutyl-L-alaninamide (300 mg, 1.23 mmol) is stirred with 2 mL of TFA in 4 mL of dichloromethane for 1 h. The mixture is concentrated and neutralized with 2 mL of 1 N NaHCO3 and 2 mL of 1 N Na2CO3, and extracted into 50 mL of ethyl ether containing 2 mL of methanol. The organic phase was washed with brine and dried with Na2SO4. Concentration afforded the title compound as a colorless film (90 mg, 0.62 mmol, 51%). 1H NMR (CD3OD) δ 4.9 (s, 3H, includes water), 3.52 (q, J=7 Hz, 1H), 3.07-2.96 (m, 2H), 1.78 (m, 1H), 1.31 (d, J=7 Hz, 3H), 0.90 (m, 6H)

reactant | N2-(tert-Butoxycarbonyl)-N1-isobutyl-L-alaninamide | 1.23 mmol, 300 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)NCC(C)C | C12H24N2O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N1-isobutyl-L-alaninamide | C(C(C)C)NC([C@@H](N)C)=O | C7H16N2O
